* PSP103 CMOS inverter -- DC transfer curve.
*
* Adapted from an OpenVAF/ngspice deck. Needs a PSP103 `.va`, which lives in `external/` and
* is gitignored, so this deck is not part of `xtask validate`:
*
*   cargo run -p va-cli -- sim circuits/benchmark/psp103_inverter_vtc.net \
*       --model external/code/psp103/vacode/psp103.va --report out,Vmeas
*
* Differences from the original deck, all forced by what this netlist parser does not have:
* the `not1` subcircuit is flattened (`.subckt` is unsupported), `.param Vcc` is substituted
* literally, `.model nch/pch` cards become `TYPE=+1`/`TYPE=-1` overrides on the X lines, and
* `+` continuation lines are folded. There is no model card (`Modelcards/psp103_*.mod` was
* not provided), so these are the `.va` file's default parameters and the currents are not
* the reference's.
*
* Expected shape: rails at 1.2 V and ~0 V, transition at ~0.588 V, crowbar current peaking
* near 99 uA at the switching point and falling to tens of pA at both rails.
Vdd   vdd gnd DC 1.2
Vmeas vss gnd DC 0
V1    in  gnd DC 0
XMP   out in  vdd vdd PSP103VA TYPE=-1 L=0.1u W=1u
XMN   out in  vss vss PSP103VA TYPE=1  L=0.1u W=1u
C3    in  vss 0.384f
C2    out vss 0.576f
.dc V1 0 1.2 0.012
.end
